US05691335
Synthesis of 3-(2-chlorobenzoyl)-1-phenyl-imidazolidin-2,4-dione (Compound 10):
In a similar manner to Example 8, 560 mg (3.18 mmol) of 1-phenyl-imidazolidin-2,4-dione were reacted with 560 mg (3.22 mmol) of 2-chlorobenzoyl chloride. After completion of the reaction, pyridine was distilled off under reduced pressure, and the resultant residue was subjected to extraction with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and with saturated saline. The thus-washed organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off. The resultant residue was purified by column chromatography on silica gel (developing solvent: methylene chloride) and subjected to crystallization from n-hexane/ethyl acetate to obtain 130 mg (yield: 12.9%) of the title compound.

reactant | 1-phenyl-imidazolidin-2,4-dione | 3.18 mmol, 560 mg | C1(=CC=CC=C1)N1C(NC(C1)=O)=O | C9H8N2O2
reactant | 2-chlorobenzoyl chloride | 3.22 mmol, 560 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(2-chlorobenzoyl)-1-phenyl-imidazolidin-2,4-dione | 130 mg, yield: 12.9% | ClC1=C(C(=O)N2C(N(CC2=O)C2=CC=CC=C2)=O)C=CC=C1 | C16H11ClN2O3
